US07666878B2
90c) 1-Bromomethyl-2-chloro-4-methanesulfonyl-benzene
A cooled (0° C.), stirred suspension of (2-chloro-4-methanesulfonyl-phenyl)-methanol (19.1 g, 0.087 mol) in diethyl ether (250 ml) under an inert atmosphere, is treated with phosphorus tribromide (5.2 ml, 0.029 mol) and allowed to stir and warm to room temperature overnight. The resulting mixture is diluted with water (100 ml) and the organic portion is separated and dried over NaOH pellets for 5 minutes. The solvent is removed in vacuo and the resulting crude residue is loaded on a pre-packed Isolute™ silica column and eluted with iso-hexane/ethyl acetate (4:1) to yield the titled compound as a white powder.

reactant | (2-chloro-4-methanesulfonyl-phenyl)-methanol | 0.087 mol, 19.1 g | ClC1=C(C=CC(=C1)S(=O)(=O)C)CO | C8H9ClO3S
reactant | phosphorus tribromide | 0.029 mol, 5.2 ml | P(Br)(Br)Br | Br3P
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 1-Bromomethyl-2-chloro-4-methanesulfonyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
